US07153848B2
Methyl 13-cyclohexyl-6,7-dihydro-6-oxo-5H-indolo[2,1-a][2]benzazepine-10-carboxylate
p-Toluenesulfonic acid (50 mg, 0.29 mmol) was added to methyl 13-cyclohexyl-6,7-dihydro-(5R,6S)-rel-5,6-dihydroxy-5H-indolo[2,1-a][2]benzazepine-10-carboxylate (100 mg, 0.25 mmol) in 50 mL of dry toluene. The solution was heated under reflux for 18 hr with removal of water using a Dean-Stark trap. The solution was diluted with ethyl acetate and washed with brine (3×) and dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was purified utilizing a Biotage apparatus with a prepacked silica column and using gradients of hexanes:ethyl acetate of from (98:2) to (85:15) to afford the product as a light yellow solid (60 mg, 62%). ESI-MS m/z 388 (MH+); 1H NMR (500 MHz, CHLOROFORM-D) □ 1.22–1.68 (m, 4 H) 1.73–1.83 (m, 2 H) 1.91–1.99 (m, 1 H) 2.02–2.15 (m, 3 H) 2.95 (m, 1 H) 3.57 (d, J=14.04 Hz, 1 H) 3.84 (d, J=14.04 Hz, 1 H) 3.95 (s, 3 H) 4.44 (d, J=18.01 Hz, 1 H) 4.96 (d, J=18.01 Hz, 1 H) 7.35 (d, J=7.63 Hz, 1 H) 7.43 (m, 1 H) 7.48 (t, J=7.32 Hz, 1 H) 7.54 (m, 1 H) 7.81 (d, J=8.55 Hz, 1 H) 7.92 (d, J=8.55 Hz, 1 H) 8.09 (s, 1 H).

reactant | p-Toluenesulfonic acid | 0.29 mmol, 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | methyl 13-cyclohexyl-6,7-dihydro-(5R,6S)-rel-5,6-dihydroxy-5H-indolo[2,1-a][2]benzazepine-10-carboxylate | 0.25 mmol, 100 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C([C@H]([C@H](C2)O)O)C=CC=C1)C(=O)OC | C25H27NO4
reactant | water | O | H2O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 13-cyclohexyl-6,7-dihydro-6-oxo-5H-indolo[2,1-a][2]benzazepine-10-carboxylate | 60 mg, 62% | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CC(C2)=O)C=CC=C1)C(=O)OC | C25H25NO3
